US09108939B2
A: tert-Butyl 4-(4-nitrophenylthio)piperidine-1-carboxylate
4-Nitrobenzenethiol (23.99 mmol, 4.653 g) and sodium hydride (32.9 mmol, 1.314 g) were combined in tetrahydrofuran and stirred at 0° C. for 30 minutes. tert-Butyl 4-(methylsulfonyloxy)piperidine-1-carboxylate (36.0 mmol, 10.05 g) was added and the reaction mixture stirred and heated overnight at 60° C. The reaction mixture was concentrated under vacuum and the residue partitioned between dichloromethane and water, the organic layer was separated, dried, and concentrated under vacuum. The residue was purified by silica column chromatography (eluting with a 0-10% methanol/dichloromethane gradient) to afford the title compound (2.90 g).

reactant | 4-Nitrobenzenethiol | 23.99 mmol, 4.653 g | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | sodium hydride | 32.9 mmol, 1.314 g | [H-].[Na+]
reactant | tert-Butyl 4-(methylsulfonyloxy)piperidine-1-carboxylate | 36.0 mmol, 10.05 g | CS(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C11H21NO5S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | tert-Butyl 4-(4-nitrophenylthio)piperidine-1-carboxylate | 2.90 g | [N+](=O)([O-])C1=CC=C(C=C1)SC1CCN(CC1)C(=O)OC(C)(C)C | C16H22N2O4S
